US06359143B1
Preparation of 5-ethoxycarbonyl-3,4-dihydro-6-methyl-2H-pyran-2-one
55.2 g of monoethyl 2-acetylglutarate was dissolved in 500 ml of methylene chloride, and 52.06 g of oxalyl chloride and 5 drops of DMF were added at 0° C. They were reacted for 2 hours at room temperature. 500 ml of methylene chloride was added to the obtained acid-chloride solution, and, at temperature below 10° C., 33.12 g of triethylamine was dropped. They were reacted for an hour at room temperature. The reaction solution was washed with water, with an aqueous solution of sodium hydrogen carbonate and then with saturated salt water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The obtained residue was purified by distillation under reduced pressure to give 29.30 g of the title compound as a colorless liquid. Boiling point: 130-150° C./17 mmHg.

reactant | monoethyl 2-acetylglutarate | 55.2 g | C(C)(=O)C(C(=O)OCC)CCC(=O)[O-]
reactant | oxalyl chloride | 52.06 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 33.12 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 5-ethoxycarbonyl-3,4-dihydro-6-methyl-2H-pyran-2-one | 29.30 g | C(C)OC(=O)C=1CCC(OC1C)=O | C9H12O4
